US08071650B2
Step 1: Synthesis of 3-methanesulfonylamino-6-cyanopyridine
5-Amino-2-cyanopyridine (5 g) was dissolved in pyridine (30 ml). The solution was cooled to 0° C. and to the solution was added dropwise methanesulfonyl chloride (3.6 ml), followed by stirring at room temperature for 17 hours. The resulting mixture was concentrated under reduced pressure, extracted with water and dichloromethane, and then dried. The obtained residue was purified by column-chromatography (hexane/ethyl acetate=2/1) to yield an orange colored solid (6.4 g, 77%).

reactant | 5-Amino-2-cyanopyridine | 5 g | NC=1C=CC(=NC1)C#N | C6H5N3
reactant | methanesulfonyl chloride | 3.6 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 3-methanesulfonylamino-6-cyanopyridine | 6.4 g, 77% | CS(=O)(=O)NC=1C=NC(=CC1)C#N | C7H7N3O2S
